US09359339B2
Step B. Methyl 7-bromo-5-(trifluoromethyl)-1-benzothiophene-2-carboxylate
Potassium carbonate (1.44 g, 10.42 mmol) then methyl thioglycolate (0.487 g, 4.59 mmol) were added to a degassed solution of 3-bromo-2-fluoro-5-(trifluoromethyl)benzaldehyde (1.13 g, 4.17 mmol) in CH3CN (11 mL). The mixture was stirred at room temperature for 30 minutes then refluxed at 100° C. overnight. The mixture was allowed to cool to room temperature, then water (20 mL) was added. The resulting light yellow solid was collected by vacuum filtration, washed with water, then dried in vacuo. The resulting ester was used directly for the following step. 1H NMR (500 MHz, CDCl3) δ 8.24 (br s, 1H); 8.15 (br s, 1H); 7.86 (br s, 1H); 4.02 (br s, 3H). LC1: 4.00 min. Compound does not ionize.

reactant | Potassium carbonate | 10.42 mmol, 1.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl thioglycolate | 4.59 mmol, 0.487 g | C(CS)(=O)OC | C3H6O2S
reactant | 3-bromo-2-fluoro-5-(trifluoromethyl)benzaldehyde | 4.17 mmol, 1.13 g | BrC=1C(=C(C=O)C=C(C1)C(F)(F)F)F | C8H3BrF4O
reactant | water | 20 mL | O | H2O
solvent | CH3CN | 11 mL | CC#N | C2H3N
product | Methyl 7-bromo-5-(trifluoromethyl)-1-benzothiophene-2-carboxylate | BrC1=CC(=CC=2C=C(SC21)C(=O)OC)C(F)(F)F | C11H6BrF3O2S
